US07557122B2
N-(2-Iodo-6-chloro-3-pyridyl)-6-benzothiazolesulfonamide
By working in a manner similar to that of Example 50, starting with 3-amino-2-iodo-6-chloropyridine and 6-benzothiazolesulfonyl chloride, the expected product is obtained in the form of an orange-colored solid (yield=33%).

reactant | 3-amino-2-iodo-6-chloropyridine | NC=1C(=NC(=CC1)Cl)I | C5H4ClIN2
reactant | 6-benzothiazolesulfonyl chloride | S1C=NC2=C1C=C(C=C2)S(=O)(=O)Cl | C7H4ClNO2S2
product | N-(2-Iodo-6-chloro-3-pyridyl)-6-benzothiazolesulfonamide | IC1=NC(=CC=C1NS(=O)(=O)C1=CC2=C(N=CS2)C=C1)Cl | C12H7ClIN3O2S2
